* File: inv.pex.sp.pex
* Created: Tue Apr 15 13:45:43 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INV%GND! 2 9 11 14
c18 14 0 0.0149187f
c19 9 0 0.00371543f
c20 2 0 0.00242608f
r21 16 20 0.0206629
r22 12 20 0.0296071
r23 12 14 1.12987
r24 11 16 0.339579
r25 9 14 10
r26 2 20 30
.ends

.subckt PM_INV%OUT 1 4 7 16
c18 7 0 8.53336e-20
c19 4 0 0.00480106f
r20 16 20 0.186663
r21 12 14 0.388606
r22 10 20 1.7
r23 10 12 0.75681
r24 7 10 0.809272
r25 4 7 10
r26 1 14 15
r27 1 12 10
.ends

.subckt PM_INV%VDD! 2 8 11 14
c12 14 0 0.025024f
r13 18 22 0.0215971
r14 14 17 0.388606
r15 12 22 0.0280297
r16 12 17 1.42716
r17 11 18 0.270081
r18 8 17 15
r19 8 14 10
r20 2 22 30
.ends

.subckt PM_INV%INA 1 2 6 14 15 18 23
c32 18 0 1.65955e-19
c33 14 0 3.97047e-19
c34 6 0 1.22368e-19
r35 23 27 0.186663
r36 18 27 1.7
r37 18 21 0.00485757
r38 14 21 25
r39 14 16 7.68531
r40 14 15 7.75092
r41 6 16 33.978
r42 4 15 39.7386
r43 2 6 46.5732
r44 1 4 27.3386
.ends

