* File: oai22.pex.netlist.pex
* Created: Thu May  8 14:36:22 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_OAI22_NET3 1 2 4 11 13 14 18 19 20 25
c46 20 0 9.64544e-20
c47 19 0 9.05958e-20
c48 4 0 0.00321082f
c49 2 0 0.00106444f
c50 1 0 0.00475238f
r51 23 25 0.413865
r52 21 22 0.127301
r53 20 21 0.459527
r54 19 23 0.0489649
r55 19 22 0.343916
r56 16 20 0.0489649
r57 16 18 0.43621
r58 15 18 0.536276
r59 13 15 0.0489649
r60 13 14 0.817044
r61 10 11 0.429352
r62 8 14 0.0489649
r63 8 11 0.184588
r64 4 25 10
r65 2 18 10
r66 1 10 10
.ends

.subckt PM_OAI22_OUT 1 5 10 15 16 19 23 27 29 30
c69 27 0 3.4081e-20
c70 23 0 1.83575e-19
c71 15 0 9.64544e-20
c72 5 0 0.0013755f
r73 30 34 0.151232
r74 27 34 1.7
r75 25 27 0.33323
r76 24 29 0.0371092
r77 23 25 0.0489649
r78 23 24 0.505188
r79 19 21 0.39152
r80 17 29 0.00964403
r81 17 19 0.777212
r82 15 29 0.0371092
r83 15 16 0.56445
r84 13 14 0.420798
r85 12 13 1.02592
r86 10 12 0.315938
r87 8 16 0.0489649
r88 8 14 0.218591
r89 5 10 10
r90 1 21 15
r91 1 19 10
.ends

.subckt PM_OAI22_GND! 2 12 15 16 23 27
c43 12 0 0.00121431f
c44 2 0 0.00114689f
r45 21 27 0.0188364
r46 21 23 1.13473
r47 16 27 0.0271748
r48 16 20 0.490085
r49 15 20 0.175904
r50 12 23 10
r51 2 20 30
.ends

.subckt PM_OAI22_VDD! 2 11 12 17 22 26 33
c40 33 0 0.0235164f
c41 22 0 0.0247823f
r42 33 36 0.39152
r43 31 40 0.016797
r44 31 36 1.28143
r45 27 39 0.0291575
r46 27 29 0.325457
r47 26 40 0.0291575
r48 22 25 0.39152
r49 20 39 0.016797
r50 20 25 1.28143
r51 17 26 1.47476
r52 17 29 0.113667
r53 12 36 15
r54 12 33 10
r55 11 25 15
r56 11 22 10
r57 2 29 30
.ends

.subckt PM_OAI22_INA 1 2 6 14 15 18 23
c30 18 0 1.08938e-19
c31 14 0 3.60811e-19
r32 23 27 0.155553
r33 18 27 1.7
r34 18 21 0.00502177
r35 14 21 25
r36 14 16 7.63996
r37 14 15 7.72066
r38 6 16 81.4299
r39 4 15 107.206
r40 2 6 46.5732
r41 1 4 27.3386
.ends

.subckt PM_OAI22_INB 1 2 6 14 15 18 23
c46 23 0 1.60188e-19
c47 18 0 3.45393e-20
c48 15 0 4.62662e-20
c49 14 0 3.22968e-19
c50 6 0 1.97961e-19
r51 23 27 0.155553
r52 18 27 1.7
r53 18 21 0.00502177
r54 14 21 25
r55 14 16 7.68747
r56 14 15 7.75285
r57 6 16 81.4299
r58 4 15 107.206
r59 2 6 46.5732
r60 1 4 27.3386
.ends

.subckt PM_OAI22_IND 1 2 6 14 15 18 23
c48 23 0 4.27231e-19
c49 18 0 2.18114e-19
c50 14 0 3.97282e-19
r51 23 27 0.155553
r52 18 27 1.7
r53 18 21 0.00485757
r54 14 21 25
r55 14 16 7.68747
r56 14 15 7.75285
r57 6 16 81.4299
r58 4 15 107.206
r59 2 6 46.5732
r60 1 4 27.3386
.ends

.subckt PM_OAI22_INC 1 2 6 10 16 19 24
c34 24 0 9.05958e-20
c35 19 0 1.10985e-19
c36 16 0 4.90444e-19
c37 6 0 1.83398e-19
r38 24 28 0.155553
r39 19 28 1.7
r40 19 22 0.00485757
r41 16 22 25
r42 13 16 5.03553
r43 11 13 5.09837
r44 10 13 5.09837
r45 6 11 81.4299
r46 4 10 107.206
r47 2 6 46.5732
r48 1 4 27.3386
.ends

